US07485637B2
5b: (5-Methanesulfonyl-2-morpholin-4-yl-phenyl)-[4-(4-trifluoromethyl-phenyl)-3,6dihydro-2H-pyridin-1-yl]-methanone
According to the procedure described for the synthesis of example 4, step f, the title compound has been synthesized from 5-Methanesulfonyl-2-morpholin-4-yl-benzoic acid and 4-(4-Trifluoromethyl-phenyl)-1,2,3,6-tetrahydro-pyridine. MS (m/e): 495.4 (MH+, 100%)

reactant | 5-Methanesulfonyl-2-morpholin-4-yl-benzoic acid | CS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)N1CCOCC1 | C12H15NO5S
reactant | 4-(4-Trifluoromethyl-phenyl)-1,2,3,6-tetrahydro-pyridine | FC(C1=CC=C(C=C1)C=1CCNCC1)(F)F | C12H12F3N
product | (5-Methanesulfonyl-2-morpholin-4-yl-phenyl)-[4-(4-trifluoromethyl-phenyl)-3,6dihydro-2H-pyridin-1-yl]-methanone | CS(=O)(=O)C=1C=CC(=C(C1)C(=O)N1CCC(=CC1)C1=CC=C(C=C1)C(F)(F)F)N1CCOCC1 | C24H25F3N2O4S
